US04607030
(c) 5-Methoxy-6-dimethylaminomethyleneaminosulfonylindane
This compound is prepared analogously to Example 1c from 5-methoxy-6-sulfamoylindane and dimethylformamide dimethylacetal.

reactant | 5-methoxy-6-sulfamoylindane | COC=1C=C2CCCC2=CC1S(N)(=O)=O | C10H13NO3S
reactant | dimethylformamide dimethylacetal | COC(N(C)C)OC | C5H13NO2
product | 5-Methoxy-6-dimethylaminomethyleneaminosulfonylindane | COC=1C=C2CCCC2=CC1S(=O)(=O)N=CN(C)C | C13H18N2O3S
